US05112977
2-(N-Piperidinyl)-naphthacene-5,12-dione
1 g (3.62 mmol) of 2-fluoro-naphthacene-5,12-dione, 0.92 g (10.86 mmol) of piperidine, 1.50 g (10.86 mmol) of potassium carbonate and 10 ml of DMSO are stirred at a bath temperature of 60° C. for 45 minutes. After cooling, the mixture is poured onto water and the orange product is filtered off. The crystals are dissolved in tetrahydrofuran (THF)/toluene and the solution is dried over sodium sulfate and evaporated. The residue is recrystallized from toluene/pentane. Yield: 1.11 g (90%); melting point 230°-233° C.

reactant | 2-fluoro-naphthacene-5,12-dione | 3.62 mmol, 1 g | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C18H9FO2
reactant | piperidine | 10.86 mmol, 0.92 g | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 10.86 mmol, 1.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2-(N-Piperidinyl)-naphthacene-5,12-dione | N1(CCCCC1)C1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C23H19NO2
